US09304394B2
5-(4-methoxy-3-(2-oxo-2-((2-oxotetrahydrofuran-3-yl)oxy)ethyl)phenyl)-dibenzothiophenium iodide
5-(3-(carboxymethyl)-4-methoxyphenyl)-dibenzothiophenium iodide (50 g, 105 mmol), 3-bromodihydrofuran-2(3H)-one (17.3 g, 105 mmol), and cesium carbonate (68.3 g, 210 mmol) are dissolved in DMF (400 mL) and stirred at 25° C. for 4 h. The reaction mixture is quenched with water (1 L), extracted with DCM (2×400 mL), the combined organic layers washed with water (4×500 mL), concentrated to a viscous oil and precipitated from MTBE (2 L) to afford the title compound as a white solid.

reactant | 5-(3-(carboxymethyl)-4-methoxyphenyl)-dibenzothiophenium iodide | 105 mmol, 50 g | [I-].C(=O)(O)CC=1C=C(C=CC1OC)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2
reactant | 3-bromodihydrofuran-2(3H)-one | 105 mmol, 17.3 g | BrC1C(OCC1)=O | C4H5BrO2
reactant | cesium carbonate | 210 mmol, 68.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 5-(4-methoxy-3-(2-oxo-2-((2-oxotetrahydrofuran-3-yl)oxy)ethyl)phenyl)-dibenzothiophenium iodide | [I-].COC1=C(C=C(C=C1)[S+]1C2=C(C3=C1C=CC=C3)C=CC=C2)CC(OC2C(OCC2)=O)=O | InChI=1S/C25H21O5S.HI/c1-28-20-11-10-17(14-16(20)15-24(26)30-21-12-13-29-25(21)27)31-22-8-4-2-6-18(22)19-7-3-5-9-23(19)31;/h2-11,14,21H,12-13,15H2,1H3;1H/q+1;/p-1
